US07410981B2
2-(Methylamino)benzyl acetate
To a solution (50 mL) of [2-(methylamino)phenyl]methanol (1.37 g: synthesized according to the method described in WO 01/32652) in tetrahydrofuran were added pyridine (1.05 mL), acetic anhydride (1.23 mL) and 4-dimethylaminopyridine (0.18 g), and the mixture was stirred at room temperature for 8 hrs. Water (100 mL) was added to the reaction mixture, and the mixture was extracted with ethyl acetate (100 mL). The organic layer was washed successively with a 5% aqueous copper (II) sulfate solution (50 mL), a saturated aqueous sodium hydrogen carbonate solution (50 mL) and saturated brine (50 mL), and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was purified by flash silica gel column chromatography (eluted with ethyl acetate:hexane=1:5, then 1:3) to give the title compound (0.38 g) as a white solid.

reactant | [2-(methylamino)phenyl]methanol | 50 mL | CNC1=C(C=CC=C1)CO | C8H11NO
reactant | pyridine | 1.05 mL | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 1.23 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | Water | 100 mL | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 0.18 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-(Methylamino)benzyl acetate | 0.38 g | C(C)(=O)OCC1=C(C=CC=C1)NC | C10H13NO2
